US07888364B2
3-(2-Bromoethoxy)-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide (40 mg, 0.076 mmol) was dissolved in acetonitrile (1.0 ml) and DMF (1.0 ml), treated with potassium carbonate (16 mg, 0.12 mmol) and pyrrolidine (7 IIl, 0.084 mmol), and stirred 18 hours at room temperature. The reaction was quenched in water and extracted with ethyl acetate twice. The ethyl acetate extracts were washed with water once, brine once, dried with MgSO4, and evaporated to an oil which was purified by reverse phase HPLC to yield 30 mg of N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)-3-(2-(pyrrolidin-1-yl)ethoxy)benzamide. MS (Q1) 514 (M)+.

reactant | 3-(2-Bromoethoxy)-N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)benzamide | 0.076 mmol, 40 mg | BrCCOC=1C=C(C(=O)NC2=CC(=C(C=C2)Cl)C2=NC=CC=C2)C=CC1CS(=O)(=O)C | C22H20BrClN2O4S
reactant | potassium carbonate | 0.12 mmol, 16 mg | C([O-])([O-])=O.[K+].[K+]
reactant | pyrrolidine | 0.084 mmol | N1CCCC1 | C4H9N
solvent | acetonitrile | 1.0 ml | C(C)#N | C2H3N
solvent | DMF | 1.0 ml | CN(C)C=O | C3H7NO
product | N-(4-chloro-3-(pyridin-2-yl)phenyl)-4-(methylsulfonylmethyl)-3-(2-(pyrrolidin-1-yl)ethoxy)benzamide | 30 mg | ClC1=C(C=C(C=C1)NC(C1=CC(=C(C=C1)CS(=O)(=O)C)OCCN1CCCC1)=O)C1=NC=CC=C1 | C26H28ClN3O4S
